US08580762B2
4-(1-methylcyclobutyl)benzene-1,2-diamine
A solution of 4-(1-methylcyclobutyl)-2-nitroaniline (138 mg. 0.668 mmol) in ethanol (8.5 mL, 140 mmol) was carefully treated with 10% Palladium on Carbon (14.2 mg, 0.0134 mmol) as a slurry in ethanol. The reaction flask was evacuated and filled with hydrogen gas three times and the reaction mixture was stirred under an atmosphere of Hydrogen for 4 h. The reaction mixture was filtered through a pad of Solka floc® and the pad was washed with 20 ml MeOH. The filtrate was concentrated to yield an oil which was placed under high vacuum yielding the desired compound as a solid (119 mg) which was used directly in the next step. 1H NMR (400 MHZ. CDCl3) δH ppm 6.66 (m, 1 H), 6.53 (m, 2 H), 3.34 (br. s., 4 H), 2.33 (m, 2 H), 2.08 (m, 1 H), 1.99 (m. 2 H). 1.80 (m, 1H), 1.42 (s, 3 H).

reactant | 4-(1-methylcyclobutyl)-2-nitroaniline | 0.668 mmol, 138 mg | CC1(CCC1)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C11H14N2O2
catalyst | Palladium on Carbon | 0.0134 mmol, 14.2 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 140 mmol, 8.5 mL | C(C)O | C2H6O
product | 4-(1-methylcyclobutyl)benzene-1,2-diamine | 119 mg | CC1(CCC1)C=1C=C(C(=CC1)N)N | C11H16N2
